US06169086A
To 30 ml of a THF solution of 1.35 ml of benzyl alcohol cooled to 0° C. was added 480 mg of sodium hydride (60% oil dispersion) in a nitrogen atmosphere. After the mixture was stirred at the same temperature for 25 minutes, 1.64 g of 2-amino-4,6-dichloropyrimidine was added thereto, followed by stirring at room temperature for 15 hours. The reaction mixture was concentrated to dryness, and 100 ml of water was added to the residue. The precipitate was collected by filtration to obtain 2.36 g of 2-amino-4-benzyloxy-6-chloropyrimidine as white powder. To the powder was added 30 ml of ethanol, and 3.11 ml of hydrazine monohydrate and 1.38 g of potassium carbonate were added thereto, followed by heat-refluxing for 21 hours. After cooling to room temperature, the reaction mixture was concentrated. Water was added to the residue, and the precipitate was collected by filtration to give 1.95 g of white powder. To the powder were added 30 ml of ethanol and then 1.57 g of ethyl ethoxymethyleneacetoacetate, and the mixture was stirred at room temperature for 1 hour and then refluxed for 5 hours. The reaction mixture was cooled to room temperature, and the solvent was removed by evaporation. The residue was purified by silica gel column chromatography using hexane-ethyl acetate (1:1 by volume) as a developing solvent. The fraction containing the desired compound was concentrated to give 1.72 g of the title compound.

reactant | benzyl alcohol | 1.35 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | 2-amino-4,6-dichloropyrimidine | 1.64 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-amino-4-benzyloxy-6-chloropyrimidine | 2.36 g | NC1=NC(=CC(=N1)OCC1=CC=CC=C1)Cl | C11H10ClN3O
